US04025642
The 2-acetamido-4-nitrophenol thus prepared (6.6 g., 0.034 mol) in 200 ml. of methanol and 5.65 ml. of concentrated hydrochloric acid is hydrogenated with 0.50 g. of 10% palladium-on-carbon in a Parr apparatus for about one hour. The reaction mixture is filtered and the methanol removed in vacuo to yield 2-acetamido-4-aminophenol hydrochloride. The latter (4.8 g., 0.0236 mol) is dissolved in a minimum amount of methanol and treated with a solution of sodium bicarbonate (1.98 g., 0.0236 mol) in about 25 ml. of water. This solution is added to a solution of 5.0 g. (0.0236 mol) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one in refluxing methanol and refluxed for 2.5 hours under nitrogen. The resulting mixture is stirred at room temperature overnight and then filtered. The solid is washed with ether, boiled with a large excess of dioxane and filtered. The solvent is reduced to about 150 ml., 100 ml. of acetonitrile is added and after cooling overnight the product is obtained, 3-[1-(3-acetamido-4-hydroxyphenylamino)ethylidene]-5-acetyl-4-hydroxy-2H-pyran-2,6(3H)-dione, m.p. 248°-250° C. (dec.). Both the mono- and di-sodium salts are prepared upon treatment of the dione with sodium methoxide in methanol.

reactant | 2-acetamido-4-nitrophenol | C(C)(=O)NC1=C(C=CC(=C1)[N+](=O)[O-])O | C8H8N2O4
reactant | hydrochloric acid | Cl | ClH
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 2-acetamido-4-aminophenol hydrochloride | Cl.C(C)(=O)NC1=C(C=CC(=C1)N)O | InChI=1S/C8H10N2O2.ClH/c1-5(11)10-7-4-6(9)2-3-8(7)12;/h2-4,12H,9H2,1H3,(H,10,11);1H
